US04292449
A mixture of 27.0 g (0.50 mol) of sodium methoxide, 56.0 g (0.62 mol) of dimethyl carbonate, and 100 ml of dry tetrahydrofuran was agitated in a 350 ml tube under 1-3 atm of tetrafluoroethylene. Tetrafluoroethylene was pressured in as consumed until 110 g (1.1 mol) had been added. The mildly exothermic reaction kept the temperature near 35° C.; after the addition, the reaction mixture was heated at 40° C. for 1 hour. The viscous solution from this reaction was treated directly with 75.6 (0.60 mol) of dimethyl sulfate at 40° C. for 15 hours. Filtration and distillation afforded 87.6 g (52%) of 1,3,3,5-tetrametoxyoctafluoropentane, bp 54° C. (0.3 mm Hg), nD24 1.3605, whose structure was confirmed by Ir 3.29, 3.33, and 3.42 (satd CH) 8-9 μ (CF, COC). Nmr (CCl4) 'H δ3.68 (s, 1, CF2OCH3) and 3.57 (p, JHF 1.3 Hz, 1, C (OCH3)2); 19F -88.2 (m, 1, CR2O) and -116.5 ppm (m, 1, CF2 ).

reactant | sodium methoxide | 0.50 mol, 27.0 g | C[O-].[Na+]
reactant | dimethyl carbonate | 0.62 mol, 56.0 g | C(OC)(OC)=O | C3H6O3
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,3,3,5-tetrametoxyoctafluoropentane | 87.6 g, 52% | COC(C(C(C(C(OC)(F)F)(F)F)(OC)OC)(F)F)(F)F | C9H12F8O4
